US04603012
N-Boc-2-amino-2-methyl-4-(2,2,5,5-tetramethyl-1-cyclopentyl)butene is dissolved in trifluoroacetic acid and the solution is stirred overnight. Water is added and the mixture made basic with 20% KOH. The mixture is extracted with ether, the organic layer dried over NaSO4 and evaporated to yield 2-amino-2-methyl-4-(2,2,5,5-tetramethyl-1-cyclopentyl)butene.

reactant | N-Boc-2-amino-2-methyl-4-(2,2,5,5-tetramethyl-1-cyclopentyl)butene | C(=O)(OC(C)(C)C)NC(C)(C=CC1C(CCC1(C)C)(C)C)C | C19H35NO2
reactant | Water | O | H2O
reactant | KOH | [OH-].[K+]
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-amino-2-methyl-4-(2,2,5,5-tetramethyl-1-cyclopentyl)butene | NC(C)(C=CC1C(CCC1(C)C)(C)C)C | C14H27N
